US04678803
8.6 g of (R)-glycerol acetonide [bp.: 88°-106° C. (18 mmHg); specific rotation: [α]D25 -12.10° (c 5.64, methanol)] was dissolved in 70 ml of chloroform, and 10.0 g of triethylamine was added. With stirring and ice cooling, a solution of 13.8 g of tosyl chloride in 30 ml of chloroform was added dropwise, and the mixture was stirred overnight. The reaction mixture was washed with an aqueous solution of potassium hydrogen carbonate and water, and the solvent was evaporated. The residue (18.7 g) was dissolved in 75 ml of acetone, and 225 ml of 1N hydrochloric acid was added. The mixture was stirred at 80° C. for 30 minutes. The reaction mixture was concentrated and extracted with 450 ml of ethyl acetate. The extract was washed with water, and the solvent was evaporated. The residue was purified by silica gel column chromatography [solvent: chloroform-methanol (40:1)] to give 10.86 g (yield 67.8%) of (S)-3-tosyloxy-1,2-propanediol as colorless needles having a melting point of 57° to 60° C.

reactant | (R)-glycerol acetonide | 8.6 g | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | triethylamine | 10.0 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 13.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-tosyloxy-1,2-propanediol | 10.86 g, yield 67.8% | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@H](CO)O | C10H14O5S
